US05194666
Preparation of n-Pentyl 3,5,6-trichlorosalicylate
Into a suitable reaction vessel equipped with a mechanical stirrer, a condenser, a Barrett trap, and nitrogen purge are added 500 parts of 3,5,6-trichlorosalicylic acid (TCSA), 978 parts of xylenes, 308 parts of toluene, and 274 parts of n-pentanol. The ratio of hydrocarbon solvents to pentanol is 4.7 to 1. The slurry is agitated rapidly and 10 parts of titanium tetraisopropoxide is added as an esterification catalyst. The mixture is heated to reflux and the water of reaction (36 parts) is removed via the Barrett trap. When water is no longer collected in the Barrett trap, refluxing is discontinued. According to high pressure liquid chromatographic (HPLC) analysis, the reaction mixture contains 596 parts of n-pentyl 3,5,6-trichlorosalicylate (PTCSA), corresponding to 97.2% molar yield on real TCSA charged. No pentyl ether or unreacted TCSA is detected.

reactant | pentyl ether | C(CCCC)OCCCCC | C10H22O
reactant | TCSA | ClC1=C(C(C(=O)O)=C(C(=C1)Cl)Cl)O | C7H3Cl3O3
product | n-Pentyl 3,5,6-trichlorosalicylate | ClC1=C(C(C(=O)OCCCCC)=C(C(=C1)Cl)Cl)O | C12H13Cl3O3
